US04637901
A mixture of 10.0 g of N-Chloroacetyl-N-methylcarbamoyl chloride, 3.8 g of anhydrous potassium fluoride and 0.5 g of 18-crown-6 in 50 cc of dichloromethane was stirred at room temperature under nitrogen for about 16 hours. The liquid was decanted and the residue was extracted with 50 cc dichlormethane. The dichloromethane layers were combined and the solvent stripped off to afford 9.0 g. (Yield 100%) of N-chloroacetyl-N-methylcarbamoyl fluoride. The product was further purified by distillation under reduced pressure. B.p. 59° C./0.2 mm.

reactant | N-Chloroacetyl-N-methylcarbamoyl chloride | 10.0 g | ClCC(=O)N(C(=O)Cl)C | C4H5Cl2NO2
reactant | potassium fluoride | 3.8 g | [F-].[K+]
reactant | 18-crown-6 | 0.5 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | dichloromethane | 50 cc | ClCCl | CH2Cl2
product | N-chloroacetyl-N-methylcarbamoyl fluoride | Yield 100% | ClCC(=O)N(C(=O)F)C | C4H5ClFNO2
